US06875759B1
Preparation of 1-[(N,N′-Di-p-tolyl)amidino]-4-methyl-piperizine
1.05 mmol of 1-methylpiperazine was dissolved in 10 ml of N,N′-dimethylformamide (DMF), and 1.0 mmol of 1,3-di-p-tolylcarbodiimide was added. After 0.5 h. of stirring at room temperature, a small precipitation was removed by filtration and washed twice with 1 ml of DMF. The filtrates were collected and kept at room temperature overnight. 50 ml of water was added to the solution. An oil precipitated after 0.5 h which transformed into a solid. The solid residue was collected by filtration, washed twice with water and dissolved in 20 ml of methanol. 0.2 ml of conc. HCl was added was added to the methanol solution. After evaporation of the methanol, the residue was redissolved in methanol, and pure product was precipitated from the solution with ethyl ether. Yield=78%.

reactant | 1-methylpiperazine | 1.05 mmol | CN1CCNCC1 | C5H12N2
reactant | 1,3-di-p-tolylcarbodiimide | 1.0 mmol | C1(=CC=C(C=C1)N=C=NC1=CC=C(C=C1)C)C | C15H14N2
solvent | N,N′-dimethylformamide | 10 ml | CN(C)C=O | C3H7NO
product | 1-[(N,N′-Di-p-tolyl)amidino]-4-methyl-piperizine | Yield=78% | C1(=CC=C(C=C1)NC(=NC1=CC=C(C=C1)C)N1CCN(CC1)C)C | C20H26N4
